US05108486
A mixture of 6.0 g (0.034 mole) of 2,5-difluoro-4-nitroaniline, 6.5 g (0.064 mole) of acetic anhydride, and approximately 0.1 g (0.0008 mole) of dimethylaminopyridine in 300 ml of methylene chloride was stirred and heated at reflux for two hours. The reaction mixture was allowed to cool and stir at room temperature for approximately 18 hours. The solvent was removed from the mixture by distillation under reduced pressure, leaving a residue. To this residue was added 32.5 g (0.318 mole) of acetic anhydride and several drops of concentrated sulfuric acid. This mixture was stirred at room temperature for approximately 18 hours. Approximately 300 ml of water was added to the mixture causing a vigorous exotherm and a solid to form. This solid was collected by filtration. The filter cake was washed with water and was dried under reduced pressure to yield 6.5 g of N-(2,5-difluoro-4-nitrophenyl)acetamide. The nmr spectrum was consistent with the proposed structure.

reactant | 2,5-difluoro-4-nitroaniline | 0.034 mole, 6.0 g | FC1=C(N)C=C(C(=C1)[N+](=O)[O-])F | C6H4F2N2O2
reactant | acetic anhydride | 0.064 mole, 6.5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 0.318 mole, 32.5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 300 ml | O | H2O
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
catalyst | sulfuric acid | several drops | S(O)(O)(=O)=O | H2O4S
catalyst | dimethylaminopyridine | 0.0008 mole, approximately 0.1 g | CN(C)C1=NC=CC=C1 | C7H10N2
product | N-(2,5-difluoro-4-nitrophenyl)acetamide | 6.5 g | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)NC(C)=O | C8H6F2N2O3
